datasets/RMG-dataset.csv
rxn,Ea
[N:0](=[N:1][H:3])[H:2].[O:4][H:5]>>[H:2][O:4][H:5].[N:0]=[N:1][H:3],-4.97896
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([S:10][H:21])([c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:20])([H:3])[H:4].[C:8]([C:9]([S:10][H:21])[c:11]1[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]1[H:26])([H:17])([H:18])[H:19],-12.9704
[H:4].[N:0]([H:1])([H:2])[H:3]>>[H:1][H:4].[N:0]([H:2])[H:3],43.542888
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])[H:10])([H:8])[H:9],31.2963
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:21]([C:20]([H:23])([H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])([H:10])[H:11],35.7314
[O:0]=[S:1][O:2][H:3].[O:4][O:5][H:6]>>[H:3][O:4][O:5][H:6].[O:0]=[S:1]=[O:2],0.0
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]1([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]([H:24])([H:25])[C:13]([H:26])([H:27])[C:14]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]1([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]([H:24])([H:25])[C:13]([H:26])([H:27])[C:14]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16],0.0
[H:2].[I:0][H:1]>>[H:1][H:2].[I:0],-2.3
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[C:7]([H:8])([H:9])[H:10]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][C:7]([H:8])([H:9])[H:10],49.49672
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:9])([H:3])[H:4].[S:8][H:10],-12.1336
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:23])([H:24])[H:25])=[C:16]([C:17]([H:26])([H:27])[H:28])[C:18](=[C:19]([H:30])[H:31])[H:29])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[C:16]([C:17]([H:26])([H:27])[H:28])[C:18](=[C:19]([H:30])[H:31])[H:29])[H:5],29.9993
[C:0](=[N:1])([H:2])[H:3].[O:4][O:5][H:6]>>[C:0](#[N:1])[H:3].[H:2][O:4][O:5][H:6],-6.73624
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19])[H:17]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:18])([H:4])[H:5].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])[H:17],28.4512
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12]([C:11]([H:21])([H:22])[H:23])[H:24])([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:6])([H:4])[H:5],64.7265
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][H:32],18.706664
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:21]([C:20]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])[H:10])([H:8])[H:9],30.6687
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14])[H:6])[H:5],13.7235
